US07470699B2
Preparation of 3-tert-Butoxy-1-{4-[6-(2-fluoro-4-methanesulfonyl-phenoxy)-5-methyl-pyrimidin-4-yloxy]-piperidin-1-yl}-propan-1-one (Compound C161)
Mixture of 4-(2-fluoro-4-methanesulfonyl-phenoxy)-5-methyl-6-(piperidin-4-yloxy)-pyrimidine (76 mg, 0.2 mmole), 3-tert-butoxy-propionic acid (0.26 mmole, 1.3 eq), HATU (0.26 mmole, 1.3 eq), and triethylamine (0.4 mmole, 2 eq) in 2 mL DMF was stirred at room temp for 2 hours. Mixture was purified by HPLC to give compound C161 as a white solid (88 mg, 86%). 1H NMR (CDCl3, 400 MHz) δ 1.20 (s, 9H), 1.91-1.96 (m, 2H), 2.02-2.10 (m, 2H), 2.22 (s, 3H), 2.72 (t, 2H), 3.11 (s, 3H), 3.62-3.64 (m, 2H), 3.72 (t, 2H), 3.86-3.91 (m, 2H), 5.41-5.46 (m, 1H), 7.44 (t, 1H), 7.78-7.82 (m, 2H), 8.23 (s, 1H). Exact mass calculated for C24H32FN3O6S 509.2, found 510.6 (MH+).

reactant | 4-(2-fluoro-4-methanesulfonyl-phenoxy)-5-methyl-6-(piperidin-4-yloxy)-pyrimidine | 0.2 mmole, 76 mg | FC1=C(OC2=NC=NC(=C2C)OC2CCNCC2)C=CC(=C1)S(=O)(=O)C | C17H20FN3O4S
reactant | 3-tert-butoxy-propionic acid | 0.26 mmole, 1.3 eq | C(C)(C)(C)OCCC(=O)O | C7H14O3
reactant | HATU | 0.26 mmole, 1.3 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 0.4 mmole, 2 eq | C(C)N(CC)CC | C6H15N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 3-tert-Butoxy-1-{4-[6-(2-fluoro-4-methanesulfonyl-phenoxy)-5-methyl-pyrimidin-4-yloxy]-piperidin-1-yl}-propan-1-one | 88 mg, 86% | C(C)(C)(C)OCCC(=O)N1CCC(CC1)OC1=NC=NC(=C1C)OC1=C(C=C(C=C1)S(=O)(=O)C)F | C24H32FN3O6S
